US05246948
Synthesis of 3-[3-(4-pyridylthio)propyl]-quinazoline-2(1H)-thion-4(3H)-one
Under nitrogen atmosphere, to a solution of 1.48 g (5.15 mmol) of 4-[3-(2-aminobenzoylamino)propylthio]pyridine in 30 ml of tetrahydrofuran, 1.84 g (10.3 mmol) of 1,1'-thiocarbonyldiimidazole was added, and the mixture was stirred at room temperature for 64 hours. The solvent was distilled off and the residue was washed with chloroform/ether to give 1.16 g of the desired product (68.5% yield, pale brown crystals).

reactant | 4-[3-(2-aminobenzoylamino)propylthio]pyridine | 5.15 mmol, 1.48 g | NC1=C(C(=O)NCCCSC2=CC=NC=C2)C=CC=C1 | C15H17N3OS
reactant | 1,1'-thiocarbonyldiimidazole | 10.3 mmol, 1.84 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-pyridylthio)propyl]-quinazoline-2(1H)-thion-4(3H)-one | 1.16 g, 68.5% yield | N1=CC=C(C=C1)SCCCN1C(NC2=CC=CC=C2C1=O)=S | C16H15N3OS2
